US07541372B2
c) 2-(5-Cyclopropyl-3-phenyl-isoxazol-4-yl)-5-(2-methoxy-phenyl)-[1,3,4]oxadiazole
To a suspension of 5-cyclopropyl-3-phenyl-isoxazole-4-carboxylic acid (236 mg, 1.03 mmol) in dichloromethane (2 mL) were added 2-methoxybenzhydrazide (205 mg, 1.24 mmol), 2-chloro-1,3-dimethylimidazolium chloride (383 mg, 2.26 mmol) and triethylamine (0.52 ml, 5.15 mmol) at ambient temperature. The resulting suspension was stirred for 18 h at this temperature before diluting with dichloromethane (20 ml) and washing with water (20 mL) and brine (20 mL). The aqueous layers were extracted with dichloromethane and the combined organic layers dried over sodium sulfate. Purification by chromatography (SiO2, heptane:ethyl acetate:dichloromethane=70:10:20 to 40:40:20) afforded the title compound (121 mg, 33%) as a white solid. MS: m/e=360.2 [M+H]+.

reactant | 5-cyclopropyl-3-phenyl-isoxazole-4-carboxylic acid | 1.03 mmol, 236 mg | C1(CC1)C1=C(C(=NO1)C1=CC=CC=C1)C(=O)O | C13H11NO3
reactant | 2-methoxybenzhydrazide | 1.24 mmol, 205 mg | COC1=C(C(=O)NN)C=CC=C1 | C8H10N2O2
reactant | 2-chloro-1,3-dimethylimidazolium chloride | 2.26 mmol, 383 mg | [Cl-].ClC1=[N+](C=CN1C)C
reactant | triethylamine | 5.15 mmol, 0.52 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-(5-Cyclopropyl-3-phenyl-isoxazol-4-yl)-5-(2-methoxy-phenyl)-[1,3,4]oxadiazole | 121 mg, 33% | C1(CC1)C1=C(C(=NO1)C1=CC=CC=C1)C=1OC(=NN1)C1=C(C=CC=C1)OC | C21H17N3O3
